US04727150
In n-propanol (42 ml) was dissolved 2,3-dimethyl-4-nitropyridine-1-oxide (841 mg). To the solution was added anhydrous potassium carbonate (2.1 g), and the mixture was stirred at 80° C. for 22 hours, followed by filtration with celite. The filtrate was concentrated, and the residue was chromatographed on a column of silica-gel (50 g), which was eluted with 5% methanol.chloroform to yield 2,3-dimethyl-4-propoxypyridine-1-oxide (360 mg) as an oily substance.

reactant | 2,3-dimethyl-4-nitropyridine-1-oxide | 841 mg | CC1=[N+](C=CC(=C1C)[N+](=O)[O-])[O-] | C7H8N2O3
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propanol | 42 ml | C(CC)O | C3H8O
product | 2,3-dimethyl-4-propoxypyridine-1-oxide | 360 mg | CC1=[N+](C=CC(=C1C)OCCC)[O-] | C10H15NO2
